US07320995B2
Add concentrated hydrochloric acid (3 mL) dropwise to a solution of p-toluene-sulfinic acid sodium salt in water (20 mL) and tert-butyl methyl ether (10 mL). Stir for 10 minutes and then separate the layers. Wash the organic layer with saturated aqueous sodium chloride, dry over sodium sulfate and concentrate under reduced pressure to provide 5 g of p-toluenesulfinic acid. Combine this acid with benzaldehyde (4.75 g, 44.8 mmol), formamide (4.9 g, 0.11 mol), and camphorsulfonic acid (0.86 g, 3.7 mmol) and heat to 60° C. for 18 hours. Remove the reaction from the heat and slurry the white solid in 3:1 hexanes:methanol. Filter the slurry to provide 7.6 g (82%) of the desired product as a white solid. 1H-NMR (DMSO-d6): § 9.75 (d, 1H), 7.98 (s, 1H), 7.69 (d, 2H), 7.53 (d 2H), 7.39 (m, 5H), 6.36 (d, 1H), 2.38 (s, 1H).

reactant | hydrochloric acid | 3 mL | Cl | ClH
reactant | p-toluene-sulfinic acid sodium salt | [Na+].C1(=CC=C(C=C1)S(=O)[O-])C
solvent | water | 20 mL | O | H2O
solvent | tert-butyl methyl ether | 10 mL | COC(C)(C)C | C5H12O
product | p-toluenesulfinic acid | 5 g | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
